US08138345B2
Preparation of Biphenyl-2-ylcarbamic Acid 1-[2-({3-[3-(2-{Benzyl-[(R)-2-(8-benzyloxy-2-oxo-1,2-dihydroquinolin-5-yl)-2-(tert-butyldimethylsilanyloxy)ethyl]-amino}ethyl)phenylcarbamoyl]propyl}methylcarbamoyl)ethyl]piperidin-4-yl Ester
To a stirred solution of 3-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]-propionic acid (127 mg, 0.344 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (69.0 mg, 0.360 mmol) in DMF (5 mL) at room temperature was added a solution of 1-hydroxy-7-azabenzotriazole in DMF (0.5 M, 0.720 mL, 0.360 mmol). N-[3-(2-{Benzyl-[(R)-2-(8-benzyloxy-2-oxo-1,2-dihydroquinolin-5-yl)-2-(tert-butyldimethylsilanyloxy)ethyl]amino}ethyl)phenyl]-4-methylaminobutyramide (240 mg, 0.327 mmol) and 2,6-lutidine (114 μL, 0.982 mmol) were added and the resulting mixture was stirred overnight. LC-MS (Method 2-90) showed product was present (Rt 4.13 min; m/z 1083.7 [M+]). Water was added and this mixture was diluted with DCM. The layers were separated and the organic layer was washed with aqueous 10% lithium chloride solution (2×), dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel flash chromatography (0-20% MeOH in DCM with 1% TEA) to give the title compound (258 mg, 72% yield) as a yellow oil.

reactant | 3-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]-propionic acid | 0.344 mmol, 127 mg | C1(=C(C=CC=C1)NC(=O)OC1CCN(CC1)CCC(=O)O)C1=CC=CC=C1 | C21H24N2O4
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.360 mmol, 69.0 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-7-azabenzotriazole | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-[3-(2-{Benzyl-[(R)-2-(8-benzyloxy-2-oxo-1,2-dihydroquinolin-5-yl)-2-(tert-butyldimethylsilanyloxy)ethyl]amino}ethyl)phenyl]-4-methylaminobutyramide | 0.327 mmol, 240 mg | C(C1=CC=CC=C1)N(CCC=1C=C(C=CC1)NC(CCCNC)=O)C[C@H](O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)OCC1=CC=CC=C1)=O | C44H56N4O4Si
reactant | 2,6-lutidine | 0.982 mmol, 114 μL | N1=C(C=CC=C1C)C | C7H9N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.360 mmol, 0.5 M, 0.720 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | Biphenyl-2-ylcarbamic Acid 1-[2-({3-[3-(2-{Benzyl-[(R)-2-(8-benzyloxy-2-oxo-1,2-dihydroquinolin-5-yl)-2-(tert-butyldimethylsilanyloxy)ethyl]-amino}ethyl)phenylcarbamoyl]propyl}methylcarbamoyl)ethyl]piperidin-4-yl Ester | 258 mg, 72% yield | C(C1=CC=CC=C1)N(CCC=1C=C(C=CC1)NC(=O)CCCN(C(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C)C[C@H](O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)OCC1=CC=CC=C1)=O | C65H78N6O7Si
